Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypoxia
 
Major Surgical or Invasive Procedure:
Radiation Treatments

 
History of Present Illness:
___ M with history of SC lung cancer s/p RLL lobectomy ___, 
recent hospitalization with low back pain found to have new 
lesions in spine and hip, delerium, ARI improved with IVF, MSSA 
bacteremia/PNA discharged on Nafcillin to be completed ___, 
presents with sudden onset hypoxia this morning, with O2 sat 
dropping to 81% at rehab and associated shortness of breath. He 
was placed on 4L NC at that time. Notably patient also had some 
urinary retention yesterday when at the hospital to have 
radiation tattooing done, had a Foley placed yesterday, and he 
has had gross hematuria since. He was taken to ___ 
___ today where he was found to be anemic as well as to 
have a UTI, and an elevated troponin to .4 in the setting of 
atrial flutter/sinus tachycardia. Hct was also noted to drop 
from ___. H receved asa 162 mg, oxycodone 5mg, zofran 4mg and 
dilaudid 0.5 mg IV there.
.
Baseline sats at rehab have been ___ on 2L intermittently per 
patient. Today sat to ___ on 2L. Notes show right leg swelling 
U/S two days ago negative. 
.
Initial Vitals/Trigger: 97.6 114 179/95 19 97%6L. He denies 
chest pain or abdominal pain, however he does endorse shortness 
of breath which has somewhat resolved since he's been placed on 
a nasal cannula at 4 L.
.
EKG showed atrial flutter. He was guiaic negative. Ceftriaxone 
was given at 1245. Potassium was also give 1230 ___s 
Oxycodone. CTA showed b/l subsegmental PEs.  CT head with old 
lesions.
.
VS on transfer: afebrile 94 121/94 24 94% 2L.
.
On the floor, he denies ever having any shortness of breath, and 
attributes his recent symptoms to anxiety which has resolved.  
He denies any chest pain, and endorses a chronic cough which is 
unchanged with occasional sputum production. His hematuria began 
2 days ago, prior to that, he did not have dysuria.  He denies 
any f/c/n/v/diarrhea.  Also has bilateral ___ edema which is new. 
 Denies any new problems since transfer.
 
Past Medical History:
-Squamous cell lung cancer: In remission for ___. s/p RLL 
resection, no chemo, radiation. 
-Head and neck cancer: Remote hx. Details unknown.
-HTN
-mild COPD 
-mild carotid stenosis
-Recent echo shows mild-moderate mitral valve stenosis/aortic 
stenosis with preserved EF
-hx of cardiac myxoma s/p resection with CVA

 
Social History:
___
Family History:
Daughter with breast cancer. Denies history of other cancers or
heart disease.

 
Physical Exam:
ON ADMISSION:
Vitals: 98.9, 97, 111/59, 65-90s, 18, 94/4L 
General: Alert, oriented, no acute distress, comfortable 
appearing  
HEENT: Sclera anicteric, MMM, oropharynx dry
Neck: supple, JVP elevated to earlobe
Lungs: b/l diffuse end expiratory high pitched wheeze loudest in 
upper lobes
CV: tachycardic rate and reg rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley in place
Ext: warm, well perfused, 2+ pulses, b/l ___ edema pitting in R 
leg, greater than left
Neuro: CNS in tact, sensation and strength in tact upper and 
lower extremities, strength in left leg limited by left hip 
pain.
.
ON DISCHARGE:
Vitals: 96.5-97.6, 150-168/60-72, 76-83, ___, 94-97% 2L NC
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, OP clear
Neck: supple, JVP elevated to earlobe
Lungs: b/l diffuse wheezing
CV: tachycardic rate and reg rhythm, normal S1 + S2, ___ SEM 
Abdomen: soft, non-tender, non-distended, bowel sounds (+) no 
rebound or guarding, no HSM
GU: foley
Ext: warm, well perfused, 2+ pulses, b/l ___ edema pitting in R 
leg, greater than left
Neuro: CNS in tact, sensation and strength in tact upper and 
lower extremities, strength in left leg limited by left hip 
pain.
 
Pertinent Results:
Admission Labs:
___ 11:48AM BLOOD WBC-15.4* RBC-3.19* Hgb-9.4* Hct-27.1* 
MCV-85 MCH-29.6 MCHC-34.8 RDW-15.1 Plt ___
___ 11:48AM BLOOD Neuts-80.7* Lymphs-11.4* Monos-6.1 
Eos-1.1 Baso-0.7
___ 12:00PM BLOOD ___ PTT-25.0 ___
___ 11:48AM BLOOD UreaN-22* Creat-1.5* Na-138 K-3.3 Cl-95* 
HCO3-31 AnGap-15
___ 11:48AM BLOOD ALT-14 AST-21 AlkPhos-97 TotBili-0.4
___ 11:48AM BLOOD TotProt-6.9 Albumin-3.2* Globuln-3.7 
Calcium-8.9
___ 11:48AM BLOOD CEA-200*

Discharge Labs:
___ 07:05AM BLOOD WBC-8.8 RBC-3.31* Hgb-9.9* Hct-29.3* 
MCV-89 MCH-29.8 MCHC-33.6 RDW-15.8* Plt ___
___ 07:05AM BLOOD Glucose-147* UreaN-11 Creat-1.1 Na-135 
K-4.2 Cl-96 HCO3-33* AnGap-10
___ 07:05AM BLOOD ALT-19 AST-28 LD(LDH)-265* AlkPhos-80 
TotBili-0.6
___ 07:05AM BLOOD Albumin-3.0* Calcium-8.6 Phos-3.3 Mg-1.7

Imaging:
CT Chest:
IMPRESSION: 
1. Pulmonary emboli in the subsegmental branches of the left 
lower lobe and 
anterior left upper lobe with no evidence of right heart strain 
or pulmonary 
infarction. 
2. New patchy consolidation in the dependent portion of the 
right upper lobe 
likely represents pneumonia or aspiration. Ground glass 
opacities in a 
bronchovascular distribution in the left upper lobe may 
represent multifocal 
pneumonia or significant aspiration event. 
.
CT Head:
IMPRESSION:  
1. No brain metastases identified.  
2. There is no evidence of intra- or extra-axial hemorrhage; 
however, subtle 
subarachnoid hemorrhage cannot be excluded on this study due to 
circulating 
intravenous contrast. 
.
CXR:
FINDINGS: As compared to the previous radiograph, the right PICC 
line was 
removed. Status post right lower lobe resection with subsequent 
volume loss 
of the right lung. Presence of a minimal right pleural effusion 
cannot be 
excluded. 
  
No newly appeared parenchymal opacities. No pulmonary edema. No 
pneumonia.  
Unchanged asymmetry of the tracheal course through the 
mediastinum. 
.
___:
IMPRESSION: Peroneal calf veins not visualized in either lower 
extremities.  
Otherwise, no DVT present 
.
CXR:
Cardiomegaly and widened mediastinum are unchanged. Patient is 
status post 
right lower lobectomy. The lungs are grossly clear with the 
surgical clips 
projecting in the right medial upper hemithorax. Unchanged right 
apical 
pleural thickening and blunting of the right CP angle are likely 
postoperative 
changes. Aeration of the right lung has improved.
 
Brief Hospital Course:
___ M with history of SC lung cancer s/p RLL lobectomy ___, 
recent hospitalization with low back pain found to have new 
lesions in spine and hip, delerium, ARI improved with IVF, MSSA 
bacteremia/PNA discharged on Nafcillin to be completed ___, 
presented with sudden onset hypoxia found to have bilateral 
subsegmental PEs, PNA and fluid overlead.
.
ACTIVE ISSUES:
# HYPOXIA: Initial deterioration was likely ___ PE and 
aspiration PNA. Patient was initially started heparin gtt then 
bridged to lovenox and was initially placed on Vanco/Zosyn. As 
patient became afebrile, he was placed on Augmentin and remained 
afebrile. ***LAST DAY OF ANTIBIOTICS WILL BE ON ___ Hypoxic 
continued despite adequate PE and PNA coverage; exam revealed 
hypervolemic state. Patient was diursed with IV lasix 20mg. 
Serum Bicarbonate started raising patient and diuresis 
terminated. Patient was briefly off oxygen however then 
restarted o2 at 2 liters. This remaining hypoxia was attributed 
to PE. Patient will remain on lovenox indefinitely. 
.
# LOWER EXTREMITY WEAKNESS/HIP PAIN/URINARY RETENTION: Symptoms 
were attributed bony metastasis. Patient started radiation 
therapy and will compelte treatments on ___. Patient was 
started on steroids to help with inflammation. Patient will 
remain on this dose of steroids until ___ then he can began 
taper (2mg Q12h for 3 days then 2mg Q24h then off). Outpatient 
oncology will reassess him to see if further treatments are 
necessary. Physical therapy saw patient and recommended 
rehabilitation for strength training. Foley holiday was 
attempted however patient continued to have retention of urine 
upto 1L. Foley was then replaced resulting in hematuria, likely 
___ trauma v. radiation cystitis. Hematocrit was stable and 
patient was hemodynamically stable. 
.
# HYPERTENSION: Patient was markedly hypertensive during this 
admission and amlodipine was started with better control of BP
.
# ELEVATED TROPONIN: Patient had initial troponin leak on 
admission likely ___ tachycardia and PE; there was associated 
EKG changes. No changes made to medications and no further 
interventions were needed.
.
# ATRIAL FLUTTER: On initially presentation, patient was 
elevated HR to 120s however with treatment of PE and continued 
use of metoprolol, patient had HR returned to normal.
.
# CODE STATUS: DNR/DNI
 
Medications on Admission:
Medications:   per ___ form
 Lasix 20mg daily, last ___
 KCl 20meq daily, last ___
 Asa 81 mg daily, last ___
 Oxycontin 20mg BID, last 6am ___
 Hydralazine 50 mg BID, last ___
 Calcium carbonate 1250mg PO TID last ___
 Oxycodone 5mg PO Q3H prn, last ___
 Ativan 1mg PO Q8H prn last ___
 lidoderm 5% patch topically to left hip last ___ at 7am
 iron 325mg daily
 metoprolol tartrate 25 mg Tab BID
 colace 100mg BID prn 
 senna 1 tabe BID prn
 insulin humalog starting at 200 increase by 2 units every 50 up 
to 400

House regular Texture, Necture thick liquid

hydrochlorothiazide 25 mg daily (stopped ___
 nafcillin in D2.4W 2 gram/100 mL IV Piggy Back (stopped ___  
 plan to change to Dicloxacillin 500 mg qid through ___

 
Discharge Medications:
1. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. hydralazine 50 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. amoxicillin-pot clavulanate 875-125 mg Tablet Sig: One (1) 
Tablet PO Q12H (every 12 hours): Last dose on ___.  
5. oxycodone 20 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO Q8H (every 8 hours).  
6. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO Q8H (every 8 
hours) as needed for anxiety.  
7. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
8. calcium carbonate 500 mg calcium (1,250 mg) Tablet Sig: One 
(1) Tablet PO TID (3 times a day).  
9. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
10. enoxaparin 100 mg/mL Syringe Sig: One (1) syringe 
Subcutaneous Q12H (every 12 hours).  
11. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily) as needed for constipation.  
12. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
13. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.  
14. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
15. insulin lispro 100 unit/mL Solution Sig: One (1) bottle 
Subcutaneous QACHS: For ___ 150-200 give 2 units; if 201-250 give 
4 units, if 251-300 give 6 units, for 301-350 give 8 units, if > 
350 alert MD; At bed time, give 1 unit 201-250, give 2 units for 
251-300, give 3 units for 301-350, alert MD for > 350.  
16. guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q6H (every 6 
hours) as needed for cough.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pulmonary Emboli
Aspiration Pneumonia
Metastatic Lung Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted because you were having shortness of breath. 
When you were admitted you were found to have blood clots in 
your lungs. You were started on a blood thinning medication to 
help stabilize the clots. You will remain this medication 
indefinitely. You were also diagnosed pneumonia and placed on 
antibiotics. You also have fluid in your lungs which we used 
lasix to help remove the fluid. You however still require oxygen 
which may be a result of your the lung clots.

You began your radiation treatments while you were in the 
hospital for your hip pain and urinary retention. You had 4 of 
the 5 treatments and will return on ___ for your final 
treatment. You will be followed by your oncologist to determine 
if you need treatment. We are expecting you to start feeling 
better in ___ weeks. In the mean time you will be going to an 
excellent rehabilitation center to get stronger.

You continue to have urinary retention likely from your cancer. 
A catheter remains in your bladder to help drain the urine. 
There is some blood in your urine from the catheter insertion 
and should resolve within a few days.

Please see the attached sheet for your medications. Please take 
them as directed
 
Followup Instructions:
___